US05650428
The procedure described in Example 65 was repeated, except that (RS)-N-(4-(ethoxycarbonylmethyl)phenyl)-2-(4-fluorobenzenesulfonylamino)-3-hydroxypropanamide (1.88 g) was reacted with mesyl chloride to obtain (RS)-N-(4-(ethoxycarbonylmethyl)phenyl)-2-(4-fluorobenzenesulfonylamino)-3-methanesulfonyloxypropanamide (1.70 g).

reactant | (RS)-N-(4-(ethoxycarbonylmethyl)phenyl)-2-(4-fluorobenzenesulfonylamino)-3-hydroxypropanamide | 1.88 g | C(C)OC(=O)CC1=CC=C(C=C1)NC(C(CO)NS(=O)(=O)C1=CC=C(C=C1)F)=O | C19H21FN2O6S
reactant | mesyl chloride | S(=O)(=O)(C)Cl | CH3ClO2S
product | (RS)-N-(4-(ethoxycarbonylmethyl)phenyl)-2-(4-fluorobenzenesulfonylamino)-3-methanesulfonyloxypropanamide | 1.70 g | C(C)OC(=O)CC1=CC=C(C=C1)NC(C(COS(=O)(=O)C)NS(=O)(=O)C1=CC=C(C=C1)F)=O | C20H23FN2O8S2
